US06511978B1
9-1) Preparation of 5-hydroxymethyl-1-(3,4-methylenedioxybenzyl)-1H-imidazole
The title compound was prepared by modifying the method described in the literature (see: J. Med. Chem., 33, 1312-1329, 1990) from dihydroxyacetone dimer and piperonylamine. 1.37 g(10 mmol) of piperonylamine, 1.08 g(6 mmol) of dihydroxyacetone dimer and 1.15 g(11 mmol) of potassium thiocyanate were added to 10 ml of isopropyl alcohol, 2 ml of acetic acid was added thereto, and the resulting mixture was stirred for 48 hours at room temperature. The reaction mixture was filtered and the resulting solid was washed twice with 5 ml of isopropyl alcohol and twice with 5 ml of water. To the solid was added 12.5 ml of 10% aqueous nitric acid solution dropwise thereto at 0° C. To the above solution was added 10 mg of sodium nitrite and the mixture was stirred for 1 hour at room temperature. After the aqueous solution was washed with 10 ml of ethylacetate, it was basified and to give 1.16 g(Yield 50%) of the title compound as solid.

reactant | dihydroxyacetone dimer | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
reactant | piperonylamine | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
reactant | piperonylamine | 10 mmol, 1.37 g | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
reactant | dihydroxyacetone dimer | 6 mmol, 1.08 g | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
reactant | potassium thiocyanate | 11 mmol, 1.15 g | [S-]C#N.[K+]
reactant | isopropyl alcohol | 10 ml | C(C)(C)O | C3H8O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 5-hydroxymethyl-1-(3,4-methylenedioxybenzyl)-1H-imidazole | 1.16 g, Yield 50% | OCC1=CN=CN1CC1=CC2=C(C=C1)OCO2 | C12H12N2O3
